US04220646
1-Acetyl-4-chlorocarbonylpiperazine can be prepared by the action of phosgene (9.9 g.) on 1-acetylpiperazine (25.6 g.) in anhydrous toluene (75 cc.) for 1 hour at 2° C. The 1-acetylpiperazine hydrochloride formed during the reaction is filtered off and washed with anhydrous toluene (50 cc.). The toluene filtrate is evaporated to dryness under reduced pressure (20 mm.Hg) to give 1-acetyl-4-chlorocarbonylpiperazine (14.0 g.) in the form of an oil.

reactant | 1-Acetyl-4-chlorocarbonylpiperazine | C(C)(=O)N1CCN(CC1)C(=O)Cl | C7H11ClN2O2
reactant | phosgene | 9.9 g | C(=O)(Cl)Cl | CCl2O
solvent | toluene | 75 cc | C1(=CC=CC=C1)C | C7H8
product | 1-acetylpiperazine hydrochloride | Cl.C(C)(=O)N1CCNCC1 | InChI=1S/C6H12N2O.ClH/c1-6(9)8-4-2-7-3-5-8;/h7H,2-5H2,1H3;1H
